US08470839B2
To a suspension of N-benzyl-2-chloro-5-fluoro-N-methylpyrimidin-4-amine (7.5 g, 27.1 mmol) in dioxane/H2O (1:1, 186 mL total volume) was added potassium hydroxide (KOH; 1.7 g, 27.1 mmol). The mixture was warmed to 100° C. and stirred for 72 h. The reaction mixture was diluted with H2O (50 mL) and the pH was adjusted to 7 with 2 N HCl. The resulting white precipitate was collected by vacuum filtration, but the majority of the product remained in the aqueous phase. The solid and filtrate were combined and the solvent was removed by azeotropic distillation with CH3CN in vacuo. The residue was dissolved/suspended in CH2Cl2 (25 mL), adsorbed onto Celite (3.0 g) and purified by flash chromatography (24 g SiO2; gradient, MeOH/CH2Cl2) to give 4-(benzylmethylamino)-5-fluoropyrimidin-2-ol (4.4 g, 45%) as a white solid: mp 122.8-123.6° C.; 1H NMR (300 MHz, CDCl3) δ 12.72 (s, 1H), 7.42-7.14 (m, 6H), 4.88 (s, 2H), 3.20 (d, J=3.2, 3H); ESIMS m/z 235 (M+2)+, 232 (M−H)−.

reactant | N-benzyl-2-chloro-5-fluoro-N-methylpyrimidin-4-amine | 27.1 mmol, 7.5 g | C(C1=CC=CC=C1)N(C1=NC(=NC=C1F)Cl)C | C12H11ClFN3
reactant | potassium hydroxide | 27.1 mmol, 1.7 g | [OH-].[K+]
reactant | HCl | 2 N | Cl | ClH
reactant | dioxane H2O | 186 mL | O1CCOCC1.O
solvent | H2O | 50 mL | O | H2O
product | 4-(benzylmethylamino)-5-fluoropyrimidin-2-ol | 4.4 g, 45% | C(C1=CC=CC=C1)CNC1=NC(=NC=C1F)O | C12H12FN3O
